US08975400B2
2-((6-chloropyridin-3-yl)oxy)-5-formylbenzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 2-fluoro-5-formylbenzonitrile and 6-chloropyridin-3-ol.

reactant | 2-fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | 6-chloropyridin-3-ol | ClC1=CC=C(C=N1)O | C5H4ClNO
product | 2-((6-chloropyridin-3-yl)oxy)-5-formylbenzonitrile | ClC1=CC=C(C=N1)OC1=C(C#N)C=C(C=C1)C=O | C13H7ClN2O2
